US07625905B2
step 1—A solution 3-chlorobenzyl cyanide (10 g, 66 mmol) dissolved in diethyl carbonate (80 mL) was added over 15 min to a suspension of NaH (8.7 g, 0.218 mol, 60% dispersion in oil) in THF (70 mL) cooled to 0° C. The resulting mixture was stirred at RT for 12 h, heated at reflux for 14 h then cooled to RT and quenched with H2O. The reaction mixture was partitioned between Et2O and H2O and the aqueous layer was adjusted to pH 3 with 2M aqueous HCl and thrice back-extracted with Et2O. The combined organic layers were washed with water, brine, dried (Na2SO4), filtered and evaporated to afford 10.1 g (68% yield) of (3-chloro-phenyl)-cyano-acetic acid ethyl ester which was used in the next step without purification.

reactant | 3-chlorobenzyl cyanide | 66 mmol, 10 g | ClC=1C=C(CC#N)C=CC1 | C8H6ClN
reactant | NaH | 0.218 mol, 8.7 g | [H-].[Na+]
reactant | diethyl carbonate | 80 mL | C(OCC)(OCC)=O | C5H10O3
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | (3-chloro-phenyl)-cyano-acetic acid ethyl ester | 10.1 g, 68% yield | C(C)OC(C(C#N)C1=CC(=CC=C1)Cl)=O | C11H10ClNO2
